US06670480B2
2-Chloro-5-formylpyridine
To a cooled 5° C., stirred solution of 2-chloro-5-cyanopyridine (25.0 grams) in anhydrous toluene (540 mL) was added a 1 M solution of diisobutylaluminum hydride (189 mL) over a 30 minute period. The resulting red-colored solution was treated with methanol (50 mL) and 2M sulfuric acid (150 mL), sequentially. The resulting biphasic solution was allowed to warm to ambient temperature and stirred for 1 hour. The reaction mixture was extracted with ethyl acetate, the combined organic layers were washed with saturated aqueous sodium bicarbonate and saturated aqueous brine. The organic phase was stirred over activated charcoal for 20 minutes, dried over anhydrous sulfate and concentrated in vacuo to afford the title compound as a light-yellow colored solid, 23.5 grams 1H NMR (400 MHz, CDCl3) δ=10.08 (s, 1H); 8.85 (s, 1H); 8.12(d, 1H); 7.50 (d, 1H).

reactant | 2-chloro-5-cyanopyridine | 25.0 grams | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | diisobutylaluminum hydride | 189 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 50 mL | CO | CH4O
reactant | sulfuric acid | 2M, 150 mL | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 540 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-5-formylpyridine | ClC1=NC=C(C=C1)C=O | C6H4ClNO
